US04859460
N-vinyl pyrrolidone/vinyl chloroacetate copolymer
63.2 g of N-vinylpyrrolidone, 36.8 g of vinyl chloroacetate, 200 g of ethanol and 1 g of azobis-isobutyronitrile is placed in a reactor of 1000 ml capacity. The mixture is placed under a nitrogen blanket and is reflux-heated under constant stirring for 8 hours. The crude polymer solution is diluted in 200 g of acetone and precipitated in 5 l. of ethyl ether. After filtration and drying, a polymer is obtained which contains 37.5% of vinyl chloroacetate based on chlorine determination.

reactant | N-vinylpyrrolidone | 63.2 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | vinyl chloroacetate | 36.8 g | ClCC(=O)OC=C | C4H5ClO2
reactant | ethanol | 200 g | C(C)O | C2H6O
reactant | azobis-isobutyronitrile | 1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | acetone | 200 g | CC(=O)C | C3H6O
product | N-vinyl pyrrolidone vinyl chloroacetate | C(=C)N1C(CCC1)=O.ClCC(=O)OC=C | InChI=1S/C6H9NO.C4H5ClO2/c1-2-7-5-3-4-6(7)8;1-2-7-4(6)3-5/h2H,1,3-5H2;2H,1,3H2
